US09126952B2
1.0 g (2.87 mmol) of tert-butyl 3-(benzothiazol-2-ylhydroxymethyl)piperidine-1-carboxylate were dissolved in 30 ml of tetrahydrofuran at room temperature. 0.35 g (2.87 mmol) of dimethylpyridin-4-ylamine and 1.53 g (8.61 mmol) of 1,1′-thiocarbonyldiimidazole were subsequently added. The reaction mixture was then stirred at room temperature for 18 h. Conventional work-up gave 1.08 g of tert-butyl 3-[benzothiazol-2-yl(imidazole-1-carbothioyloxy)methyl]piperidine-1-carboxylate; HPLC/MS (M+H)+=459 as oil.

reactant | tert-butyl 3-(benzothiazol-2-ylhydroxymethyl)piperidine-1-carboxylate | 2.87 mmol, 1.0 g | S1C(=NC2=C1C=CC=C2)C(C2CN(CCC2)C(=O)OC(C)(C)C)O | C18H24N2O3S
reactant | 1,1′-thiocarbonyldiimidazole | 8.61 mmol, 1.53 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | dimethylpyridin-4-ylamine | 2.87 mmol, 0.35 g | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-butyl 3-[benzothiazol-2-yl(imidazole-1-carbothioyloxy)methyl]piperidine-1-carboxylate | 1.08 g | S1C(=NC2=C1C=CC=C2)C(C2CN(CCC2)C(=O)OC(C)(C)C)OC(=S)N2C=NC=C2 | C22H26N4O3S2
